US07863269B2
14d) N-[3-(2-Bromoacetyl)-5-pentafluorosulfanylphenyl]-2,2,2-trifluoroacetamide
N-(3-Acetyl-5-pentafluorosulfanylphenyl)-2,2,2-trifluoroacetamide (20 mg) was initially introduced dissolved in glacial acetic acid (1 ml), and bromine (9 mg) dissolved in glacial acetic acid (90 μl) was slowly added dropwise. After stirring at RT for 30 min, the mixture was warmed at 60° C. for 1 h. After cooling to RT, the glacial acetic acid was diluted with a large quantity of water and extracted three times with ethyl acetate. The combined extracts were washed with sodium hydrogencarbonate solution until acid-free, dried over magnesium sulfate, filtered and concentrated. The crude product obtained (24 mg) was employed in the next stage without further purification.

reactant | N-(3-Acetyl-5-pentafluorosulfanylphenyl)-2,2,2-trifluoroacetamide | 20 mg | C(C)(=O)C=1C=C(C=C(C1)S(F)(F)(F)(F)F)NC(C(F)(F)F)=O | C10H7F8NO2S
reactant | bromine | 9 mg | BrBr | Br2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 90 μl | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | N-[3-(2-Bromoacetyl)-5-pentafluorosulfanylphenyl]-2,2,2-trifluoroacetamide | BrCC(=O)C=1C=C(C=C(C1)S(F)(F)(F)(F)F)NC(C(F)(F)F)=O | C10H6BrF8NO2S
